US09145413B2
a. [5-tert-Butyl-2-(6-methyl-pyridin-3-yl)-2H-pyrazol-3-yl]-carbamic acid 2,2,2-trichloro-ethyl ester (Intermediate 102a)
To a mixture of 5-tert-butyl-2-(6-methyl-pyridin-3-yl)-2H-pyrazol-3-ylamine (for reference procedure see for example WO2003/072569, which is incorporated herein by reference in its entirety; 833 mg, 3.62 mmol) in NaOH (1M in water, 5.4 mL, 4.4 mmol) and EtOAc (5 mL) was added 2,2,2-trichloroethyl chloroformate (548 μL, 3.98 mmol) and the reaction mixture was stirred at RT for 1 h. Additional NaOH (1M in water, 5.4 mL) and 2,2,2-trichloroethyl chloroformate (548 μL) were added and stirring at RT was continued for 1 h. Additional NaOH (1M in water, 5.4 mL) and 2,2,2-trichloroethyl chloroformate (548 μL) were added and stirring at RT was continued for 2 h. Additional NaOH (1M in water, 10.8 mL) and 2,2,2-trichloroethyl chloroformate (1.10 mL) were added and stirring at RT was continued for 24 h. The aqueous layer was extracted with EtOAc (×3) and the combined organic layers were washed with brine, dried (Na2SO4) and concentrated in vacuo. The resultant residue was purified by FCC on silica, using a gradient of 10-50% EtOAc in cyclohexane, to afford the title compound (550 mg, 37%) as a white foam. LCMS (Method 3): Rt 3.87 min, m/z 405 [MH+].

reactant | 5-tert-butyl-2-(6-methyl-pyridin-3-yl)-2H-pyrazol-3-ylamine | C(C)(C)(C)C=1C=C(N(N1)C=1C=NC(=CC1)C)N | C13H18N4
reactant | NaOH | 4.4 mmol, 1M, 5.4 mL | [OH-].[Na+]
reactant | 2,2,2-trichloroethyl chloroformate | 3.98 mmol, 548 μL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | NaOH | 1M, 5.4 mL | [OH-].[Na+]
reactant | 2,2,2-trichloroethyl chloroformate | 548 μL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | NaOH | 1M, 5.4 mL | [OH-].[Na+]
reactant | 2,2,2-trichloroethyl chloroformate | 548 μL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | NaOH | 1M, 10.8 mL | [OH-].[Na+]
reactant | 2,2,2-trichloroethyl chloroformate | 1.10 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | [5-tert-Butyl-2-(6-methyl-pyridin-3-yl)-2H-pyrazol-3-yl]-carbamic acid 2,2,2-trichloro-ethyl ester | 550 mg, 37% | ClC(COC(NC=1N(N=C(C1)C(C)(C)C)C=1C=NC(=CC1)C)=O)(Cl)Cl | C16H19Cl3N4O2
